US07723333B2
2-tert-Butyl-4-{[3-(4-fluorophenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared as described for Example 5 from 2-tert-butyl-4-[(3-bromopropyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 4-fluorophenol using 3 equivalents of K2CO3 and with heating at 80° C. for 15 mins, 100° C. for 1 h and 120° C. for 1 h. The reaction mixture was evaporated to dryness and the residue was purified by silica gel column chromatography (Horizons Biotage) using 12-20% EtOAc in petroleum ether 40-60° C. as eluent to give the title compound (0.007 g, 31%). 1H NMR (500 MHz CDCl3): δ 7.54-7.50 (m, 2H), 7.45-7.40 (m, 3H), 7.00-6.96 (m, 2H), 6.82-6.78 (m, 2H), 5.76 (t, 1H), 3.86 (t, 2H), 3.11-3.02 (m, 2H), 1.88-1.80 (m, 2H), 1.75 (s, 9H); 13C NMR (125 MHz CDCl3): δ 159.8, 158., 154.7, 156.7, 135.3, 131.8, 129.7, 128.8, 125.3, 116.2, 160.0, 115.6, 115.5, 107.2, 66.7, 61.7, 42.5, 28.9, 27.8; Mass Spectrum: M+H+ 433.

reactant | 2-tert-butyl-4-[(3-bromopropyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(C)(C)N1S(C(=C(C1=O)NCCCBr)C1=CC=CC=C1)(=O)=O | C16H21BrN2O3S
reactant | 4-fluorophenol | 3 equivalents | FC1=CC=C(C=C1)O | C6H5FO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 2-tert-Butyl-4-{[3-(4-fluorophenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.007 g, 31% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=CC=C(C=C1)F)C1=CC=CC=C1)(=O)=O | C22H25FN2O4S
